US05464781
3-Ethoxy-2-methylpyridine (132.5 g) was added dropwise to concentrated sulphuric acid (530 ml) with stirring and cooling to keep the mixture below 10° C. A mixture of concentrated nitric acid (81 ml) and concentrated sulphuric acid (97 ml) was added dropwise over 4 hours, keeping the temperature below 5° C. The reaction mixture was allowed to warm up slowly to ambient temperature and then added in portions to ice/water (2.5 l). The solid was collected by filtration, washed with water and dried under vacuum at 50° C. to give 3-ethoxy-2-methyl-6-nitropyridine, m.p. 82°-84° C.

reactant | 3-Ethoxy-2-methylpyridine | 132.5 g | C(C)OC=1C(=NC=CC1)C | C8H11NO
reactant | nitric acid | 81 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulphuric acid | 530 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulphuric acid | 97 ml | S(O)(O)(=O)=O | H2O4S
product | 3-ethoxy-2-methyl-6-nitropyridine | C(C)OC=1C(=NC(=CC1)[N+](=O)[O-])C | C8H10N2O3
